US06387926B1
A) (R)-[3-Hydroxy-1-(phenylmethyl)propyl]carbamic acid 1,1-dimethylethyl ester
To a solution (R)-β-[[(1,1-Dimethylethoxy)carbonyl]amino]-benzenebutanoic acid methyl ester (1.5 g, 5.1 mmol, J. Med. Chem. 1985, 28, 434) in THF (10 mL), was added lithium borohydride (218 mg, 10 mmol), followed by ethanol (10 mL), dropwise. After stirring at rt for 18 hours, an additional lithium borohydride (218 mg 10 mmol) was added and stirring continued for 6 hours. The reaction mixture was ice cooled and adjusted to pH 4 by the addition of a 10% citric acid solution. Organic solvents were removed and the resulting cloudy aqueous solution was extracted with dichloromethane. The extracts were combined, dried (MgSO4) and concentrated in vacuo to afford a clear colorless oil residue which was purified by flash chromatography on silica gel eluting with 30% ethyl acetate in hexanes to yield (1.2 g, 89%) of the title compound as a clear colorless oil.

reactant | (R)-β-[[(1,1-Dimethylethoxy)carbonyl]amino]-benzenebutanoic acid methyl ester | 5.1 mmol, 1.5 g | COC(C[C@@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C16H23NO4
reactant | lithium borohydride | 10 mmol, 218 mg | [BH4-].[Li+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | lithium borohydride | 10 mmol, 218 mg | [BH4-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-[3-Hydroxy-1-(phenylmethyl)propyl]carbamic acid 1,1-dimethylethyl ester | 1.2 g, 89% | CC(C)(C)OC(N[C@@H](CCO)CC1=CC=CC=C1)=O | C15H23NO3
